US03983116
D. Synthesis of 1-Methyl-3-isopropyl-6-methylthio-s-triazine-2,4(1H,3H)-dione (Equation 9)
Eighty parts of sodium 3-isopropyl-6-methylthio-s-triazine-2,4(1H,3H)-dione and 49 parts of methyl iodide are refluxed overnight in 700 parts of acetonitrile. The solvent is evaporated and the residue dissolved in methylene chloride. The methylene chloride solution is washed with water, dried, and evaporated to afford after recrystallization from 1-chlorobutane: hexane 54 parts of 1-methyl-3-isopropyl-6-methylthio-s-triazine-2,4(1H,3H)-dione, m.p. 74°-77°.

reactant | sodium 3-isopropyl-6-methylthio-s-triazine-2,4(1H,3H)-dione | C(C)(C)N1C(NC(=NC1=O)SC)=O.[Na]
reactant | methyl iodide | CI | CH3I
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-Methyl-3-isopropyl-6-methylthio-s-triazine-2,4(1H,3H)-dione | CN1C(N(C(N=C1SC)=O)C(C)C)=O | C8H13N3O2S
